US04997947
Preparation of 6-methoxymethylpyridine-2,3dicarboxylic acid diethyl ester
First of all 40 g of pyridine-2,3-dicarboxylic acid diethyl ester and then 33.3 g of methoxyacetic acid are added to a solution of 400 g of water, 36 g of concentrated sulphuric acid and 6.1 g of silver nitrate. The reaction mixture is then heated to 70° and a solution of 60.7 g of ammonium peroxydisulphate (NH4)2S2O8 in 225 ml of water is added dropwise thereto while stirring vigorously. When the evolution of CO2 has ceased, the reaction mixture is stirred for a further 20 minutes. It is then cooled to 15° and extracted twice with 200 ml of methylene chloride each time. The organic phases are collected, dried over magnesium sulphate, filtered and concentrated by evaporation. The oil that remains is chromatographed over a column of silica gel with ether/hexane 1:1, there being eluted from different fractions 9.1 g of 6-methoxymethylpyridine-2,3-dicarboxylic acid in the form of crystals having a melting point of 52°-54°, 12.9 g of 4,6-bis-methoxymethylpyridine-2,3-dicarboxylic acid diethyl ester in the form of an oil and 10.2 g of 4-methoxymethylpyridine-2,3-dicarboxylic acid diethyl ester also in the form of an oil.

reactant | pyridine-2,3-dicarboxylic acid diethyl ester | 40 g | C(C)OC(=O)C1=NC=CC=C1C(=O)OCC | C11H13NO4
reactant | methoxyacetic acid | 33.3 g | COCC(=O)O | C3H6O3
reactant | sulphuric acid | 36 g | S(O)(O)(=O)=O | H2O4S
reactant | CO2 | C(=O)=O | CO2
solvent | water | 225 ml | O | H2O
catalyst | silver nitrate | 6.1 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 400 g | O | H2O
product | 6-methoxymethylpyridine-2,3dicarboxylic acid diethyl ester | C(C)OC(=O)C1=NC(=CC=C1C(=O)OCC)COC | C13H17NO5
